US07148215B2
4-Benzoylpiperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester
A solution of piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.84 g, prepared according to the procedure described in WO 96/31478 Step B page 94) in dry dichloromethane (50 mL) was treated with triethylamine (1.1 mL), then benzoyl chloride (0.91 mL). After stirring at room temperature for a further 5 hours the reaction mixture was treated with further dichloromethane (150 mL) and then washed twice with a saturated aqueous solution of sodium hydrogen carbonate (50 mL) and twice with brine (50 mL). The organic phase was then dried over magnesium sulfate and evaporated to give the title compound (2.58 g) as an orange oil, MS: 363 [MH]+. 1H NMR [(CD3)2SO]: δ 7.50–7.34 (m, 5H), 5.20–5.00 (s, 1H), 4.44–4.36 (m, 1H), 4.21–4.13 (m, 2H), 3.87–3.78 (m, 1H), 3.73–3.69 (bs, 1H), 3.30–3.20 (m, 2H), 2.98–2.90 (m, 1H), 1.45–1.38 (s, 9H) and 1.27–1.20 (m, 3H).

reactant | piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1CN(CCN1)C(=O)OC(C)(C)C | C12H22N2O4
reactant | triethylamine | 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.91 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-Benzoylpiperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 2.58 g | C(C)OC(=O)C1CN(CCN1C(C1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C19H26N2O5
